US08084484B2
g) Ethyl 2-(3,4-dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoate
Ethyl 2-(3-(2-chloroacetamido)-4-hydroxyphenyl)propanoate (100 mg, 0.350 mmol) in acetone (10 mL) was added potassium carbonate (59 mg) at room temperature and refluxed for 3 hours. The reaction mixture was cooled to room temperature and added water (15 mL). The mixture was extracted with EtOAc. The organic layer was dried with MgSO4 and filtered. EtOAc was removed by evaporation. The residue was purified by column chromatography eluting with n-Hexane/EtOAc=2/1.

reactant | Ethyl 2-(3-(2-chloroacetamido)-4-hydroxyphenyl)propanoate | 0.350 mmol, 100 mg | ClCC(=O)NC=1C=C(C=CC1O)C(C(=O)OCC)C | C13H16ClNO4
reactant | potassium carbonate | 59 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 15 mL | O | H2O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | Ethyl 2-(3,4-dihydro-3-oxo-2H-benzo[b][1,4]oxazin-6-yl)propanoate | O=C1NC2=C(OC1)C=CC(=C2)C(C(=O)OCC)C | C13H15NO4
